US07612075B2
A. 2-(Benzhydrylidene-amino)-4-methyl-benzonitrile.
To a solution of 2-amino-4-methyl benzonitrile (20 g, 151 mmol) in 1000 mL of dichloroethane is added benzophenone imine (30 g, 166 mmol). The solution is refluxed for 48 hours After this time, the solution is cooled to ambient temperatures. The solution is washed with sat. NaHCO3, water and sat. NaCl. The organic layer is dried over MgSO4, filtered and concentrated under vacuum. The product is further purified by recrystallization from t-butyl ether. The title compound (25.5 g, 118 mmol) is obtained as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ7.88 (m, 2H), 7.42 (m, 3H), 7.32 (m, 7H), 6.79 (d, 1H), 6.58 (s, 1H), 2.23 (s, 3H).

reactant | 2-amino-4-methyl benzonitrile | 151 mmol, 20 g | NC1=C(C#N)C=CC(=C1)C | C8H8N2
reactant | benzophenone imine | 166 mmol, 30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | dichloroethane | 1000 mL | ClC(C)Cl | C2H4Cl2
product | 2-(Benzhydrylidene-amino)-4-methyl-benzonitrile | 118 mmol, 25.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C#N)C=CC(=C1)C | C21H16N2
